US07129225B2
3-hydroxy-4-propyloxybenzonitrile
3-benzyloxy-5-hydroxybenzonitrile (225 mg, 1 mmol) was dissolved in 2 mL THF. 2 mL of BH3-THF (1.5 M in THF and ether) was added dropwise, then the mixture was heated at reflux temperature for 3 hours. After cooling, the mixture was carefully poured to 3M HCl (ice cooled) and allowed to stir for 20 hours at room temperature. The mixture was neutralized with solid NaHCO3, thus the product precipitated as a white solid. The product was collected by filtration, washed with water, and dried (140 mg, 61%): MP 164–166° C. (dec); 1H NMR (DMSO-d6, 400 MHz) δ9.28 (br, 1H), 7.41 (d, 2H, J=6.9 Hz), 7.36 (dd, 2H, J=7.0 and 7.6 Hz), 7.30 (dd, 1H, J=7.0 and 6.6 Hz), 6.43 (s, 1H), 6.32 (s, 1H), 6.21 (dd, 1H, J=2.2 and 2.0 Hz), 4.99 (S, 2H), 3.57 (S, 2H).

reactant | 3-benzyloxy-5-hydroxybenzonitrile | 1 mmol, 225 mg | C(C1=CC=CC=C1)OC=1C=C(C#N)C=C(C1)O | C14H11NO2
reactant | BH3-THF | 1.5 M, 2 mL | B.C1CCOC1
reactant | HCl | 3M | Cl | ClH
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | 3-hydroxy-4-propyloxybenzonitrile | OC=1C=C(C#N)C=CC1OCCC | C10H11NO2
